US07495014B2
2-Nitro-6-pyrimidin-2-yl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine:
A mixture of 4-bromo-2-nitro-6-pyrimidin-2-yl-phenylamine (1.82 g, 6.2 mmol), bis(pinacolato)diboron (3.144 g, 12.4 mmol), PdCl2dppf2 (453 mg, 0.6 mmol) and KOAc (3.03 g, 31 mmol) in dioxane (60 ml) was heated at 105° C. for 2.5 hours. The reaction was filtered and washed with dichloromethane. The combined filtrates were concentrated under vacuum and water (100 ml) was added to the residue. Extraction with dichloromethane (3×50 ml), drying and concentration gave a residue, which was washed with ether-hexane to afford the title compound (2.07 g, 98%).

reactant | 4-bromo-2-nitro-6-pyrimidin-2-yl-phenylamine | 6.2 mmol, 1.82 g | BrC1=CC(=C(C(=C1)C1=NC=CC=N1)N)[N+](=O)[O-] | C10H7BrN4O2
reactant | bis(pinacolato)diboron | 12.4 mmol, 3.144 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 31 mmol, 3.03 g | CC(=O)[O-].[K+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 2-Nitro-6-pyrimidin-2-yl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 2.07 g, 98% | [N+](=O)([O-])C1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NC=CC=N1)N | C16H19BN4O4
